US03961056
a. N-cyclohexyl-N'-(3,4-dichlorophenyl)thiourea
A mixture of 16.2 gm. (0.1 mole) of 3,4-dichloroaniline and 14.1 gm. (0.1 mole) of cyclohexyl isothiocyanate is heated together on the steam bath for four hours. The solid is crystallized from ethanol-water; 18 gm. (59%), m.p. 159°-162°.

reactant | 3,4-dichloroaniline | 0.1 mole | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
reactant | cyclohexyl isothiocyanate | 0.1 mole | C1(CCCCC1)N=C=S | C7H11NS
product | N-cyclohexyl-N'-(3,4-dichlorophenyl)thiourea | C1(CCCCC1)NC(=S)NC1=CC(=C(C=C1)Cl)Cl | C13H16Cl2N2S
